US09233964B2
1,1-Dioxo-3-[(sulfamoylamino)methyl]thiolane
Sulfamide (2.4 mmol) was dissolved in H2O (10 mL), added (1,1-dioxothiolan-3-yl)methanamine (2 mmol) and stirred at reflux for 16 h. The obtained reaction mixture was cooled to rt and freezedried affording the title compound as an oil. Used without further purification.

reactant | Sulfamide | 2.4 mmol | S(=O)(=O)(N)N | H4N2O2S
reactant | (1,1-dioxothiolan-3-yl)methanamine | 2 mmol | O=S1(CC(CC1)CN)=O | C5H11NO2S
solvent | H2O | 10 mL | O | H2O
product | 1,1-Dioxo-3-[(sulfamoylamino)methyl]thiolane | O=S1(CC(CC1)CNS(N)(=O)=O)=O | C5H12N2O4S2
